US05389640
N-[2-Chloro-4-(2-hydroxy-2-methylpropyl)amino-3-quinolinyl]-3-methoxypropanamide
3-Methoxypropionyl chloride (5.5 g, 0.045 mole) was slowly added with stirring to a solution of 1[(3-amino-2-chloro-4-quinolinyl)amino]-2-methyl-2-propanol (10 g, 0.038 mole) in acetonitrile (140 mL). After the addition was completed, the reaction mixture was heated at reflux for 30 minutes then allowed to stir at room temperature overnight. The reaction mixture was filtered to provide 12.4 g of the desired product as a solid.

reactant | 3-Methoxypropionyl chloride | 0.045 mole, 5.5 g | COCCC(=O)Cl | C4H7ClO2
reactant | 1[(3-amino-2-chloro-4-quinolinyl)amino]-2-methyl-2-propanol | 0.038 mole, 10 g | NC=1C(=NC2=CC=CC=C2C1NCC(C)(O)C)Cl | C13H16ClN3O
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
product | N-[2-Chloro-4-(2-hydroxy-2-methylpropyl)amino-3-quinolinyl]-3-methoxypropanamide | 12.4 g | ClC1=NC2=CC=CC=C2C(=C1NC(CCOC)=O)NCC(C)(C)O | C17H22ClN3O3
